US07071216B2
To 4-(2-bromoethyl)-1-nitrobenzene(1 eq) in tetrahydrofuran was added morpholine (3 eq) and stir for 16 h at ambient temperature. Concentrating and passing through a plug of silica gave 4-[2-(4-nitrophenyl)ethylmorpholine. MS: MH+=236.

reactant | 4-(2-bromoethyl)-1-nitrobenzene | 1 eq | BrCCC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | morpholine | 3 eq | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(4-nitrophenyl)ethylmorpholine | [N+](=O)([O-])C1=CC=C(C=C1)CCN1CCOCC1 | C12H16N2O3
